US07074798B2
b) 8-Chloro-7-(2-chlorophenyl)-1,3-dimethyl-3,7-dihydropurine-2,6-dione
7-(2-Chlorophenyl)-1,3-dimethyl-3,7-dihydropurine-2,6-dione (138 mg) and N-chlorosuccinimide (78 mg) were suspended in N,N-dimethylformamide (1 ml). The reaction mixture was stirred at room temperature for 2 hours, diluted with ethyl acetate, and washed with water. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure to give 151 mg of the title compound.

reactant | 7-(2-Chlorophenyl)-1,3-dimethyl-3,7-dihydropurine-2,6-dione | 138 mg | ClC1=C(C=CC=C1)N1C=NC=2N(C(N(C(C12)=O)C)=O)C | C13H11ClN4O2
reactant | N-chlorosuccinimide | 78 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-Chloro-7-(2-chlorophenyl)-1,3-dimethyl-3,7-dihydropurine-2,6-dione | 151 mg | ClC1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)Cl)=O)C)=O)C | C13H10Cl2N4O2
